US07468446B2
To a solution of 4-bromo-2-ethoxy-1-methoxy-benzene (1.5 g, 6.5 mmol) in THF (15 mL) was added a solution of n-butyllitium in hexane (2.5 mL, 2.5 N, 6.3 mmol) at −78° C. and kept for 20 min. To the mixture was added a slurry of 1-methyl-1H-benzotriazole-5-carbaldehyde (1.0 g, 6.0 mmol) in THF (5 mL) at −78° C. After 18 h, isopropanol (2 mL) and water (10 mL) was added to the mixture, and the cold bath was removed. The mixture was stirred at room temperature for 20 min. The mixture was extracted with ethyl acetate (50 mL) and water (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers was washed with water (50 mL), brine (50 mL) and dried over MgSO4. Removal of solvent gave (3-ethoxy-4-methoxy-phenyl)-(1-methyl-1H-benzotriazol-5-yl)-methanol as an oil (2 g). The oil was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 6.5 mmol, 1.5 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllitium | C(CCC)[Li]
reactant | hexane | 6.3 mmol, 2.5 N, 2.5 mL | CCCCCC | C6H14
reactant | 1-methyl-1H-benzotriazole-5-carbaldehyde | 6.0 mmol, 1.0 g | CN1N=NC2=C1C=CC(=C2)C=O | C8H7N3O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | (3-ethoxy-4-methoxy-phenyl)-(1-methyl-1H-benzotriazol-5-yl)-methanol | 2 g | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC2=C(N(N=N2)C)C=C1 | C17H19N3O3
